Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
gabapentin / Lyrica
 
Attending: ___.
 
Chief Complaint:
Constipation, nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
___: Therapeutic paracentesis

 
History of Present Illness:
___ w/ CAD, HTN, DL, T2DM c/b neuropathy, stage IV endometrial 
CA
s/p TAH/BSO, debulking, pelvic and interstitial radiotherapy in
___, progression after 5 cycles of ___, 
Everolimus,
taxotere, Gemzar, now on Kevetrin and recently ___, with SBO
that resolved with conservative management.  

She has a BM QOD or QD and take senna PRN. She denies
any N/V and has a great appetite and weight is stable. She
reports mild abdominal discomfort since starting clinical trial.
She denies any urinary sx, VB or change in vaginal discharge.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___- endometrial biopsy with adenocarcinoma  
___- TAH-BSO with staging laparotomy (Dr. ___ 
and Dr. ___ showed enlarged firm uterus and 
disease along ureterosacral ligament on the left; visually 
debulked; path with adenocarcinoma of the endometrioid type 
invading into uterine serosa, bilateral tubes and ovaries, and 
involving fibroadipose tissue in posterior cul-de-sac. Biopsy of 
omentum showed involvement of omental adipose tissue. (Stage 
IVb- pT3aN1M1)  
___- started cycle 1 ___  
___- switched to ___ (due to neuropathy) (received one 
cycle- adriamycin 45 mg/m2)  
___ switched back to ___ (dose reduced taxol d/t 
neuropathy)  
___- nodule anterior wall of vagina- biopsy showed 
adenocarcinoma c/w endometrial primary  
___- pelvic radiotherapy with concurrent bevacizumab 
(Dr. ___  
___- interstitial brachytherapy  
___- two increased peritoneal soft tissue nodules left lower 
quadrant; CA125 =39  
___- PET-CT with multiple soft tissue nodules adjacent to 
the anterior abdominal wall which are FDG avid (1.5 x 1.3 cm 
nodule adjacent to left rectus femoris muscle; cluster of small 
nodules in mid anterior pelvis measuring 1.5 x 2.7 cm in 
aggregate; small fat-containing ventral hernia with soft tissue 
changes in the inferior aspect demonstrating FDG avidity)  
___- first cycle carboplatin AUC 4/doxil 25 mg/m2  
___ cycle carboplatin AUC 4/doxil 25 mg/m2  
___- third cycle carboplatin AUC 4/doxil 25 mg/m2  
___- PET showed partial response- decrease in nodule left 
anterior abdominal wall; other nodules similar but difficult to 
assess avidity  
___- fourth cycle carboplatin AUC 4/doxil 25 mg/m2  
___- fifth cycle carboplatin AUC 4/doxil 25 mg/m2 
(anticipated)  
___- started Megace 160 mg daily for 3 weeks followed by 
tamoxifen 40 mg daily for 3 weeks  
___- PET with increase in size and FDG avidity of multiple 
anterior abdominal nodules  
___- started everolimus 10 mg/d  
___- everolimus decreased to 5mg/d  
___- everolimus increased to 10 mg/d as marker rising  
___- CA125 up to 42; everolimus d/c'd  
___- started ___  
___- cycle 2 ___  
___- cycle 3 ___  
___- PET with increased peritoneal carcinomatosis; Taxotere 
started  
___- PET with overall stable disease (compared with ___  
___- hospitalized for partial SBO; resolved  
___- started weekly gemcitabine 800 ___- hospitalized for partial SBO; resolved  
___- cycle 2 week 1 gemcitabine (delayed one week)  
___- cycle 2 week 2 gemcitabine (3rd dose)  
 
PAST MEDICAL HISTORY:  
1. Hypertension.  
2. Endometrial cancer- stage IV- first chemotherapy ___  
3. Type II DM-- c/b by neuropathy  
4. Psoriasis  
5. Hypercholestrolemia  
6. Headache  
7. Osteoarthritis  
8. Obesity  
9. Fatty Liver  
10. Depression  
11. GERD  

 
Social History:
___
Family History:
mom with myeloproliferative d/o; PGM had cholangiocarcinoma; MGM 
had breast cancer in her ___ maternal aunt had breast cancer 
then uterine cancer then MDS which transformed to leukemia. 
Paternal aunt's son had renal cell cancer 56. Brother ___ had 
large colon polyp- apparently had MSI/IHC testing of this for 
HNPCC which was reportedly negative; no further testing was 
recommended 
 
Physical Exam:
VS:  98.3 108/62 118 16 99% RA
GEN: Middle aged female who appears stated age. Lying in bed, 
NAD.
HEENT: PERRL. MMM. No JVD. R ear without external bulging, no 
pain on tugging. 
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: CTAB no crackles or wheezes  
Abd: BS present in all quadrants. Mild distention. Soft, mildly 
TTP across lower abdomen, no rebound/guarding. Hard midline mass 
in lower abdomen/pelvis.
Extremities: wwp, no edema. 1+ pitting edema in b/l ___
Skin: no rashes or bruising  
Neuro: AAO x 3 No gross neurological deficits.

 
Pertinent Results:
___ 08:54PM   GLUCOSE-93 UREA N-25* CREAT-1.1 SODIUM-130* 
POTASSIUM-5.4* CHLORIDE-85* TOTAL CO2-31 ANION GAP-19
___ 08:54PM   estGFR-Using this
___ 08:54PM   ALT(SGPT)-11 AST(SGOT)-18 ALK PHOS-134* TOT 
BILI-0.3
___ 08:54PM   cTropnT-<0.01
___ 08:54PM   ALBUMIN-3.2* CALCIUM-9.1 PHOSPHATE-4.1 
MAGNESIUM-1.5*
___ 08:54PM   TSH-1.2
___ 08:54PM   WBC-11.7*# RBC-3.93* HGB-10.6* HCT-32.3* 
MCV-82 MCH-26.9* MCHC-32.7 RDW-15.3
___ 08:54PM   PLT COUNT-530*#
___ 08:54PM   ___ PTT-27.1 ___
___ 06:09AM BLOOD Glucose-99 UreaN-10 Creat-0.7 Na-136 
K-4.5 Cl-100 HCO3-31 AnGap-___ w/ CAD, HTN, DL, T2DM, neuropathy, and aggressive stage IV
endometrial CA s/p TAH/BSO who presents with constipation and
nausea and vomiting.

#SBO
Pt p/w SBO based on symptoms and xray evidence. she was treated 
with conservative management by NPO, IVF, pain control, nausea 
control. Her nausea and abdominal pain worsened, so a 
nasogastric tube was placed which provided some symptomatic 
relief. She was unable to tolerate clears despite NGT placement 
so she underwent a therapeutic paracentesis of 3L ascites fluid, 
whic provided significant relief of abdominal pain. Her nausea 
also improved and she was able to tolerate clears without 
symptoms. She had large bowel movements shortly after which also 
provdied relief. The following day, she was advanced to regular 
food and tolerated it well initially, but her nausea and emesis 
returned the following day. She was returned to clear diet and 
monitored over two nights. Her symptoms abated while remaining 
on clears and she was discharged home in stable condition with 
instructions to advance her diet very slowly at home. Pt was 
agreeable with this plan and had close followup on discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 125 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. Centrum Silver 
(
m
u
l
t
i
v
i
t
-
m
i
n
-
F
A
-
___ 
acid-lutein) 0.4-300-250 mg-mcg-mcg oral daily 
4. Furosemide 80 mg PO 3X/WEEK (___) 
5. metronidazole-skin cleansr #23 0.75 % topical BID 
6. Omeprazole 20 mg PO DAILY 
7. Potassium Chloride 30 mEq PO DAILY 
8. TripleFlex (glucosamine HCl-msm-chondroitn) ___ mg 
oral daily 
9. Citalopram 20 mg PO DAILY 
10. Calcium Carbonate Dose is Unknown  PO Frequency is Unknown 
11. Vitamin D Dose is Unknown  PO Frequency is Unknown 
12. lactobacillus acidophilus unknown unknown oral unknown 
13. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
14. Pyridoxine 200 mg PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. Morphine SR (MS ___ 15 mg PO Q12H 
17. OxycoDONE (Immediate Release)  5 mg PO Q2H:PRN pain 

 
Discharge Medications:
1. Amitriptyline 125 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 0 mg PO Frequency is Unknown 
4. Citalopram 20 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*90 Capsule Refills:*0
6. Centrum Silver 
(
m
u
l
t
i
v
i
t
-
m
i
n
-
F
A
-
___ 
acid-lutein) 0.4-300-250 mg-mcg-mcg oral daily 
7. Furosemide 80 mg PO 3X/WEEK (___) 
8. lactobacillus acidophilus 0 unknown ORAL Frequency is Unknown 

9. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
10. metronidazole-skin cleansr #23 0.75 % topical BID 
11. Morphine SR (MS ___ 15 mg PO Q12H 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. OxycoDONE (Immediate Release)  5 mg PO Q2H:PRN pain 
15. Potassium Chloride 30 mEq PO DAILY 
16. Pyridoxine 200 mg PO DAILY 
17. TripleFlex (glucosamine HCl-msm-chondroitn) ___ mg 
oral daily 
18. Vitamin D 0 UNIT PO Frequency is Unknown 
19. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*90 Capsule Refills:*0
20. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Small bowel obstruction vs. ileus, Stage IV endometrial 
cancer 

Secondary: Coronary artery disease, hypertension, dyslipidemia, 
type 2 diabetes, neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital for nausea 
and vomiting, which was most likely due to a small bowel 
obstruction (SBO).  This was most likely caused by your cancer.  
We performed a procedure called a paracentesis to drain fluid 
that had accumulated in your belly and placed a nasogastric (NG) 
tube through your nose into your stomach, and your symptoms 
improved.  When you were no longer vomiting, we advanced your 
diet, and you were able to tolerate regular foods without 
difficulty.  We removed the NG tube and you were discharged 
home.  Please remember to eat a diet that is high in fiber and 
to take a daily stool softener (e.g. Colace) in order to prevent 
constipation.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___